US06805920B2
(i): Synthesis of 2-fluoro-4-trifluoromethanesulfonylbenzonitrile (Compound (IV) [R1 =F; R2, R3, R4 =H; X2 =CN; LG =OTf] in Scheme (1))
9.89 g (72.1 mmol) 2-fluoro-4-hydroxybenzonitrile was dissolved in a mixed solvent of 100 ml toluene and 10 ml THF in a nitrogen atmosphere, and 8.56 g (108.2 mmol) pyridine was added. 24.4 g (86.5 mmol) trifluoromethanesulfonic acid anhydride was added dropwise thereto under cooling on ice, and the mixture was stirred for 2.5 hours. The reaction was terminated by adding aqueous saturated sodium bicarbonate, and the product was extracted with ethyl acetate. The organic phase was washed with aqueous saturated saline, dried over magnesium sulfate anhydride, concentrated, and purified by silica gel chromatography (hexane/ethyl acetate=4/1 (ratio by volume)) to give 19.1 g of the desired product. The yield was 98%.

reactant | 2-fluoro-4-hydroxybenzonitrile | 72.1 mmol, 9.89 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | pyridine | 108.2 mmol, 8.56 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic acid anhydride | 86.5 mmol, 24.4 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-fluoro-4-trifluoromethanesulfonylbenzonitrile | 19.1 g, yield was 98% | FC1=C(C#N)C=CC(=C1)S(=O)(=O)C(F)(F)F | C8H3F4NO2S
